US05650422
Following a procedure similar to that described in Example 33A, 2-(5-mercapto-1,3,4-thiadiazol-2-ylthiomethyl)saccharin is reacted with 2-chloroethyldiethylamine hydrochloride in DMF in the presence of triethylamine to give 2-(5-[2-(diethylamino)ethylthio]-1,3,4-thiadiazol-2-ylthiomethyl)saccharin, mp 93.0°-94.5° C. (from cyclohexane:ethyl acetate).

reactant | 2-(5-mercapto-1,3,4-thiadiazol-2-ylthiomethyl)saccharin | SC1=NN=C(S1)SCN1S(=O)(=O)C2=CC=CC=C2C1=O | C10H7N3O3S4
reactant | 2-chloroethyldiethylamine hydrochloride | Cl.ClCCN(CC)CC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-[2-(diethylamino)ethylthio]-1,3,4-thiadiazol-2-ylthiomethyl)saccharin | C(C)N(CCSC1=NN=C(S1)SCN1S(=O)(=O)C2=CC=CC=C2C1=O)CC | C16H20N4O3S4
